US04937249
N-[4-{4-(6-Fluoro-1,2-benzisoxazol-3-yl)piperidinyl}-2-hydroxybutyl]cyclohexane-1,2-dicarboximide:
To a mixture of 60% sodium hydride (0.12 g) and dimethylformamide (5 ml), cyclohexane-1,2-dicarboximide (0.5 g) was portionwise added. A solution of 1-(3,4-epoxybutyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (0.8 g) in dimethylformamide (10 ml) was dropwise added thereto at room temperature, and the resultant mixture was kept at an inner temperature of 90 to 100° C. for 16.5 hours. Insoluble materials were removed by filtration, and the residue was combined with water and extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure. The resulting crude crystals were recrystallized from a mixture of isopropyl ether and isopropanol to give the objective compound (0.6 g).

reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | cyclohexane-1,2-dicarboximide | 0.5 g | C12C(CCCC1)C(NC2=O)=O | C8H11NO2
reactant | 1-(3,4-epoxybutyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 0.8 g | O1C(CCN2CCC(CC2)C2=NOC3=C2C=CC(=C3)F)C1 | C16H19FN2O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[4-{4-(6-Fluoro-1,2-benzisoxazol-3-yl)piperidinyl}-2-hydroxybutyl]cyclohexane-1,2-dicarboximide | 0.6 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC(CN2C(=O)C3C(CCCC3)C2=O)O)C=C1 | C24H30FN3O4
